US07456156B2
Step 1—Synthesis of 10-bromodecyltrimethylammonium bromide
1,10-Dibromodecane (20 grams, 66.7 mmoles) and THF (100 milliliters) were placed in a 500-mL, three-necked flask. The solution was cooled to 0° C. with an ice-water bath. Anhydrous trimethylamine (3 grams, 50.8 mmoles) was added to the mixture by slowly bubbling trimethylamine gas for about 15 minutes. Then the reaction mixture was allowed to warm to room temperature and stirred at room temperature overnight. The solid material was filtered and washed with THF (5×30 milliliters). After drying in vacuo overnight, 12.5 grams (34.82 mmoles, 69% based on the amine used) of the product was obtained as a white solid.

reactant | 1,10-Dibromodecane | 66.7 mmoles, 20 grams | BrCCCCCCCCCCBr | C10H20Br2
reactant | trimethylamine | 50.8 mmoles, 3 grams | CN(C)C | C3H9N
solvent | THF | 100 milliliters | C1CCOC1 | C4H8O
product | 10-bromodecyltrimethylammonium bromide | [Br-].BrCCCCCCCCCC[N+](C)(C)C | InChI=1S/C13H29BrN.BrH/c1-15(2,3)13-11-9-7-5-4-6-8-10-12-14;/h4-13H2,1-3H3;1H/q+1;/p-1
